US04010280
To a mixture of 0.35 g of lithium aluminum hydride and 15 ml of tetrahydrofuran, there was added dropwise a solution of 2.05 g of 3-{2-(2-ethoxyphenoxy)ethylamino}-p-fluoropropionanilide in 20 ml of tetrahydrofuran. Then, the resulting mixture was refluxed for 3 hours. To the reaction mixture cooled in ice, there were gradually added water and benzene. The organic layer was separated, dried over sodium sulfate and evaporated under reduced pressure. The oily residue was dissolved in isopropanol, and a warm solution of 0.8 g of oxalic acid in 10 ml of isopropanol was added thereto. After cooling, the precipitate was collected by filtration and dried to give N-{2-(2-ethoxyphenoxy)ethyl}-3-(4-fluoroanilino)propylamine hydrogen oxalate, M.P. 193°-196° C (decomp.). Recrystallization from methanol gave white crystals, M.P. 218°-219° C (decomp.).

reactant | lithium aluminum hydride | 0.35 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-{2-(2-ethoxyphenoxy)ethylamino}-p-fluoropropionanilide | 2.05 g | C(C)OC1=C(OCCNCCC(=O)NC2=CC=C(C=C2)F)C=CC=C1 | C19H23FN2O3
reactant | water | O | H2O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-{2-(2-ethoxyphenoxy)ethyl}-3-(4-fluoroanilino)propylamine hydrogen oxalate | C(C(=O)O)(=O)O.C(C)OC1=C(OCCNCCCNC2=CC=C(C=C2)F)C=CC=C1 | InChI=1S/C19H25FN2O2.C2H2O4/c1-2-23-18-6-3-4-7-19(18)24-15-14-21-12-5-13-22-17-10-8-16(20)9-11-17;3-1(4)2(5)6/h3-4,6-11,21-22H,2,5,12-15H2,1H3;(H,3,4)(H,5,6)
